US06747023B1
trans-2,6-Bis(2-hydroxyethyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-4-yl)benzoyl]piperazine
In tetrahydrofuran (40 ml), trans-2,6-bis(carboxymethyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-4-yl)benzoyl]piperazine (269 mg) was suspended, followed by the addition of N,N-diisopropylethylamine (480 μl) and 1-benzotriazolyloxy-tris(pyrrolidino)phosphonium hexafluorophosphate (672 mg) under ice cooling. The resulting mixture was stirred for 3.5 hours at room temperature. Under ice cooling, sodium borohydride (297 mg) was added and the resulting mixture was stirred for 15 hours at room temperature. The reaction mixture was ice cooled and added with water and ethyl acetate to separate the organic layer. The organic layer thus obtained was washed with aqueous NaCl solution, dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (4% methanol—dichloromethane), followed by dissolution in tetrahydrofuran. Saturated hydrochloride in methanol was added to the resulting solution and the resulting mixture was concentrated to dryness. Ethyl acetate was then added to the residue to crystallize the same, whereby the title compound was obtained.

reactant | trans-2,6-bis(carboxymethyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-4-yl)benzoyl]piperazine | 269 mg | C(=O)(O)C[C@@H]1N([C@H](CN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CC(=O)O)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C30H26ClN3O7S
reactant | N,N-diisopropylethylamine | 480 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-benzotriazolyloxy-tris(pyrrolidino)phosphonium hexafluorophosphate | 672 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | sodium borohydride | 297 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | trans-2,6-Bis(2-hydroxyethyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-1-[4-(pyridin-4-yl)benzoyl]piperazine | OCC[C@@H]1N([C@H](CN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CCO)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C30H30ClN3O5S
